data/polar.json
{"reaction_name": "Bucherer–Bergs reaction", "rsmi": "[CH3:1][C:2](=[O:3])[CH3:4].[C-:5]#[N:6].[N:7]([H:11])([H:12])[H:13].[O:8]=[C:9]=[O:10]>>[CH3:1][C:2]1([CH3:4])[N:7]([H:12])[C:9](=[O:8])[N-:6][C:5]1=[O:10].[O:3]([H:11])[H:13]", "epd": [["LP-/Sigma+", [5], [2, 5]], ["Sigma-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 11]], ["Sigma-/LP+", [7, 11], [7]], ["LP-/Sigma+", [7], [2, 7]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 13]], ["Sigma-/LP+", [7, 13], [7]], ["LP-/Sigma+", [7], [7, 9]], ["Pi-/LP+", [8, 9], [8]], ["LP-/Pi+", [8], [8, 9]], ["Sigma-/LP+", [9, 10], [10]], ["LP-/Sigma+", [10], [5, 10]], ["Pi-/LP+", [5, 6], [6]], ["LP-/Sigma+", [6], [6, 9]], ["Pi-/LP+", [8, 9], [8]], ["LP-/Pi+", [8], [8, 9]], ["Pi-/LP+", [9, 10], [10]], ["LP-/Pi+", [10], [5, 10]], ["Pi-/LP+", [5, 6], [6]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:1]=[S:16](=[O:2])([N:15]([S:11][C:6]([F:8])([F:9])[F:10])[S:17](=[O:3])(=[O:4])[c:30]1[cH:20][cH:27][cH:23][cH:28][cH:21]1)[c:29]1[cH:18][cH:25][cH:22][cH:26][cH:19]1.[cH:5]1[cH:12][c:13]2[c:33]([cH:24][cH:34]1)[CH:32]=[CH:7][CH:31]2[Li:14]>>[Li+:14].[O:1]=[S:16](=[O:2])([N-:15][S:17](=[O:3])(=[O:4])[c:30]1[cH:20][cH:27][cH:23][cH:28][cH:21]1)[c:29]1[cH:18][cH:25][cH:22][cH:26][cH:19]1.[cH:5]1[cH:12][c:13]2[c:33]([cH:24][cH:34]1)[CH:32]=[CH:7][CH:31]2[S:11][C:6]([F:8])([F:9])[F:10]", "epd": [["Sigma-/Sigma+", [31, 14], [31, 11]], ["Sigma-/LP+", [11, 15], [15]]]}
{"reaction_name": "Hantzsch pyridine synthesis", "rsmi": "[CH3:1][C:2](=[O:3])[C:4]([H:25])([H:26])[C:5](=[O:6])[O:7][CH3:8].[CH3:16][C:17](=[O:18])[C:19]([H:27])([H:28])[C:20](=[O:21])[O:22][CH3:23].[CH3:9][C:10]([H:24])=[O:11].[N:12]([H:13])([H:14])[H:15]>>[CH3:8][O:7][C:5](=[O:6])[C:4]1=[C:2]([CH3:1])[N:12]([H:15])[C:17]([CH3:16])=[C:19]([C:20](=[O:21])[O:22][CH3:23])[C:10]([H:24])([CH3:9])1.[O:3]([H:13])[H:25].[O:18]([H:14])[H:27].[O:11]([H:26])[H:28]", "epd": [["LP-/Sigma+", [12], [2, 12]], ["Sigma-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 13]], ["Sigma-/LP+", [12, 13], [12]], ["LP-/Sigma+", [12], [12, 17]], ["Sigma-/LP+", [17, 18], [18]], ["LP-/Sigma+", [18], [14, 18]], ["Sigma-/LP+", [12, 14], [12]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 25]], ["Sigma-/LP+", [4, 25], [4]], ["LP-/Pi+", [4], [2, 4]], ["Sigma-/LP+", [10, 11], [11]], ["LP-/Sigma+", [11], [11, 26]], ["Sigma-/LP+", [4, 26], [4]], ["LP-/Sigma+", [4], [4, 10]], ["Sigma-/LP+", [19, 28], [19]], ["LP-/Pi+", [19], [17, 19]], ["LP-/Sigma+", [11], [11, 28]], ["Pi-/LP+", [17, 18], [18]], ["LP-/Sigma+", [18], [18, 27]], ["Sigma-/LP+", [19, 27], [19]], ["LP-/Sigma+", [19], [10, 19]], ["Pi-/LP+", [10, 11], [11]]]}
{"reaction_name": "Diazotization", "rsmi": "[H+:7].[O:3]([N:9]=[O:4])[H:11].[cH:1]1[cH:2][cH:6][cH:8][c:14][c:5]1[N:10]([H:12])[H:13]>>[O:3]([H:11])[H:13].[O:4]([H:7])[H:12].[cH:1]1[cH:2][cH:6][cH:8][c:14][c:5]1[N+:10]#[N:9]", "epd": [["Sigma-/LP+", [3, 9], [3]], ["LP-/Sigma+", [3], [3, 13]], ["Sigma-/LP+", [10, 13], [10]], ["LP-/Sigma+", [10], [9, 10]], ["LP-/Sigma+", [4], [4, 7]], ["Pi-/LP+", [4, 9], [4]], ["LP-/Sigma+", [4], [4, 12]], ["Sigma-/LP+", [10, 12], [10]], ["LP-/Pi+", [10], [9, 10]], ["Sigma-/LP+", [4, 9], [4]], ["LP-/Pi+", [10], [9, 10]]]}
{"reaction_name": "BF3–etherate adduct formation", "rsmi": "[CH2:4]([O:6][CH2:5][CH3:8])[CH3:7].[F:1][B:9]([F:2])[F:3]>>[F:1][B-:9]([F:2])([F:3])[O+:6]([CH2:4][CH3:7])[CH2:5][CH3:8]", "epd": [["LP-/Sigma+", [6], [6, 9]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[c:2]1([P:18]([c:3]2[cH:10][cH:32][cH:6][cH:33][cH:11]2)([c:4]2[cH:12][cH:34][cH:7][cH:35][cH:13]2)=[CH:40][C:25]([O:20][CH2:16][CH3:41])=[O:23])[cH:8][cH:30][cH:5][cH:31][cH:9]1.[cH:1]1[cH:14][cH:27][cH:17][c:19]2[c:15]1[N+:37]([CH3:22])=[CH:26][C:24]2=[CH:21][c:36]1[cH:28][cH:38][cH:42][cH:39][cH:29]1>>[cH:1]1[cH:14][cH:27][cH:17][c:19]2[c:15]1[n:37]([CH3:22])[cH:26][c:24]2[CH:21]([c:36]1[cH:28][cH:38][cH:42][cH:39][cH:29]1)[CH:40]([P+:18]([c:2]1[cH:8][cH:30][cH:5][cH:31][cH:9]1)([c:3]1[cH:10][cH:32][cH:6][cH:33][cH:11]1)[c:4]1[cH:12][cH:34][cH:7][cH:35][cH:13]1)[C:25]([O:20][CH2:16][CH3:41])=[O:23]", "epd": [["Pi-/Sigma+", [40, 18], [40, 21]], ["Pi-/Pi+", [21, 24], [24, 26]], ["Pi-/LP+", [26, 37], [37]]]}
